US06255333B1
1-(2,6-Dichloro-4-trifluoromethylphenyl)-3-trifluoromethyl-4-trimethylsilylethynylpyrazole
To a stirred solution of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethyl4-trimethylsilylethynylpyrazole (6.39 g) in tetrahydrofuran (50 ml) at 65° C. was added dropwise over one hour t-butylnitrite (7.15 g) in tetrahydrofuran (10 ml). Heating was continued for 2 hours then the mitue was left at room temperature overnight. After evaporation the residue was taken up in hexane and decanted free from insoluble materials. The solution was evaporated and the residue purified by column chromatography on silica gel eluted with dichloromethane:hexane (1:1). Combination and evaporation of appropriate fractions, followed by recrystallisation from hexane, provided the title compound as a pale yellow solid, m.p. 105-108° C.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethyl4-trimethylsilylethynylpyrazole | 6.39 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F)C#C[Si](C)(C)C | C16H13Cl2F6N3Si
reactant | t-butylnitrite | 7.15 g | C(C)(C)(C)ON=O | C4H9NO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(2,6-Dichloro-4-trifluoromethylphenyl)-3-trifluoromethyl-4-trimethylsilylethynylpyrazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1)C#C[Si](C)(C)C)C(F)(F)F | C16H12Cl2F6N2Si
